US07235568B2
Ethyl 3-cyclopenten-1-ylbenzoate (4a)
The following are successively introduced into a round-bottomed flask: 7 g of ethyl 3-iodobenzoate (25 mmol), 11.2 ml of cyclopentene (127 mmol), 21 ml of ethanol, 1.16 g of Pd2dba3 complex (1.27 mmol), 8.8 g of potassium carbonate (63 mmol) and 8.17 g of nBu4NBr (25 mmol). The medium is heated at 80° C. for 16 hours and then the black mixture is filtered on celite. The precipitate is washed with ethyl acetate. The filtrate is washed with water and then with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and then concentrated under reduced pressure. The title product, which is isolated by bulb to bulb distillation (5.2 g), is obtained in the form of a pale yellow oil.

reactant | ethyl 3-iodobenzoate | 25 mmol, 7 g | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
reactant | cyclopentene | 127 mmol, 11.2 ml | C1=CCCC1 | C5H8
reactant | potassium carbonate | 63 mmol, 8.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | nBu4NBr | 25 mmol, 8.17 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | Ethyl 3-cyclopenten-1-ylbenzoate | C1(=CCCC1)C=1C=C(C(=O)OCC)C=CC1 | C14H16O2
